US04895600
(Aminoethyl Ethanolamine Phosphonate)
To a 500 ml three neck flask fitted with a reflux condenser and dropping funnel is added 131.2 grams (1.12 moles) 70% phosphorous acid and 207.2 grams (2.1 moles) 37% hydrochloric acid. Aminoethyl ethanolamine, 42.1 grams (0.40 mole) is then added dropwise while stirring. The mixture is then heated to reflux and 97.3 grams (1.2 moles) 37% aqueous formaldehyde is added dropwise during 1 hour. Reflux is continued for 2 hours after completion of the formaldehyde addition. The mixture is then cooled and bottled.

reactant | phosphorous acid | 1.12 moles, 131.2 grams | P(O)(O)O | H3O3P
reactant | hydrochloric acid | 2.1 moles, 207.2 grams | Cl | ClH
reactant | Aminoethyl ethanolamine | NCCC(O)CN | C4H12N2O
reactant | formaldehyde | 1.2 moles, 97.3 grams | C=O | CH2O
product | Aminoethyl Ethanolamine Phosphonate | P(O)(O)=O.NCCC(O)CN | InChI=1S/C4H12N2O.H3O3P/c5-2-1-4(7)3-6;1-4(2)3/h4,7H,1-3,5-6H2;4H,(H2,1,2,3)
